US08293768B2
Following the procedure as described in step A of Preparation 2, making variations as required to replace 4-fluoroaniline with 4-(trifluoromethyl)benzylamine to react with dimethoxyacetaldehyde followed by the imine reduction with sodium triacetoxyborohydride, 2,2-dimethoxy-N-(4-(trifluoromethyl)benzyl)ethanamine was obtained in 67% yield: 1H NMR (300 MHz, CDCl3) δ 7.52 (d, J=8.1 Hz, 2H), 7.39 (d, J=8.1 Hz, 2H), 4.43 (t, J=2.7 Hz, 1H), 3.81 (s, 2H), 3.38 (s, 6H), 2.67 (dd, J=2.7, 2.5 Hz, 2H); MS (ES+) m/z 264.3 (M+1).

reactant | 4-fluoroaniline | FC1=CC=C(N)C=C1 | C6H6FN
reactant | 4-(trifluoromethyl)benzylamine | FC(C1=CC=C(CN)C=C1)(F)F | C8H8F3N
reactant | dimethoxyacetaldehyde | COC(C=O)OC | C4H8O3
reactant | sodium triacetoxyborohydride | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
product | 2,2-dimethoxy-N-(4-(trifluoromethyl)benzyl)ethanamine | 67% yield | COC(CNCC1=CC=C(C=C1)C(F)(F)F)OC | C12H16F3NO2
